US05656626
8-Chloro-3-hydroxy-4-(2-thienyl)-1H-benzo(b)azepine-2,5-dione
A solution of 4-(2-thienyl)-8-chloro-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (0.20 g) in 2.4N HCl/THF (1:1, 200 mL) was allowed to stir at room temperature for 1 hour followed by heating to 50° C. for 1 hour. The reaction mixture was partitioned between ether and water. The organic portion was dried (MgSO4), filtered, and concentrated in vacuo. The residue was recrystallized twice from ethyl acetate/hexanes to afford the title compound (0.048 g); mp 231°-233° C. (dec.); NMR: 11.70 (bs, 1), 7.72 (d, 1, J=8.6), 7.62-7.60 (m,2), 7.40 (d, 1, J=1.9), 7.32 (dd, 1, J=8.6, 2.0), 7.10 (m, 1). Analysis for C14H8O3NClS 0.25 H2O.: Calculated: C, 54.29; H, 2.76; N, 4.51; Found C, 54.38; H, 2.90; N, 4.41.

reactant | 4-(2-thienyl)-8-chloro-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.20 g | S1C(=CC=C1)C=1C(C2=C(NC(C1OC)=O)C=C(C=C2)Cl)=O | C15H10ClNO3S
solvent | HCl THF | 2.4N, 200 mL | Cl.C1CCOC1
product | 8-Chloro-3-hydroxy-4-(2-thienyl)-1H-benzo(b)azepine-2,5-dione | 0.048 g | ClC=1C=CC2=C(NC(C(=C(C2=O)C=2SC=CC2)O)=O)C1 | C14H8ClNO3S
